US09382188B2
step 1) 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-ol
Under a nitrogen atmosphere, to a solution of zinc chloride (35.9 mg) and lithium chloride (61.4 mg) in THF (976 μL) was added a 1 mol/L solution (527 μL) of trimethylsilylmethylmagnesium chloride in THF at room temperature, and the mixture was stirred for 15 min. To the reaction mixture was added a 1 mol/L solution (1449 μL) of isopropylmagnesium bromide in THF at room temperature, and the mixture was stirred for 45 min. Furthermore, to the reaction mixture was added dropwise a solution of 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbaldehyde (160.9 mg) in THF (1952 μL) at 0° C., and the mixture was stirred for 1 hr. To the reaction mixture was added, at 0° C., saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (112 mg) as a colorless oil.

reactant | lithium chloride | 61.4 mg | [Cl-].[Li+]
reactant | trimethylsilylmethylmagnesium chloride | C[Si](C)(C)C[Mg]Cl
reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbaldehyde | 160.9 mg | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C=O | C22H19FO4
solvent | THF | 976 μL | C1CCOC1 | C4H8O
solvent | THF | 1952 μL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 35.9 mg | [Cl-].[Zn+2].[Cl-]
product | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2-methylpropan-1-ol | 112 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)C)O | C25H27FO4
